US07407949B2
1-Methyl-5-(3-methyl-4-(4-methylperhydro-1,4-diazepine-1-carbonylaminomethyl)benzoyl)-4,10-dihydropyrazolo[5,4-b][1,5]benzodiazepine
1,1′-Carbonyldiimidazole (37 mg, 0.23 mmol) was added to a solution of 5-(4-(aminomethyl)-3-methylbenzoyl)-1-methyl-4,10-dihydropyrazolo-[5,4-b][1,5]benzodiazepine (75 mg, 0.22 mmol) in DMF (2 ml). The solution was stirred for 1 h, a solution of 1-methylhomopiperazine (27 mg, 0.24 mmol) and DIEA (31 mg, 0.24 mmol) in DMF (1 ml) was added and stirring was continued for 24 h. The mixture was concentrated in vacuo and the residue was purified by chromatography on silica gel (eluant 30/2/1-1/1/1 chloroform/methanol/concentrated ammonia) to give a white solid identified as 1-methyl-5-(3-methyl-4-(4-methylperhydro-1,4-diazepine-1-carbonylaminomethyl)benzoyl)-4,10-dihydropyrazolo[5,4-b][1,5](38 mg, 36%).

reactant | 1,1′-Carbonyldiimidazole | 0.23 mmol, 37 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-(4-(aminomethyl)-3-methylbenzoyl)-1-methyl-4,10-dihydropyrazolo-[5,4-b][1,5]benzodiazepine | 0.22 mmol, 75 mg | NCC1=C(C=C(C(=O)N2CC3=C(NC4=C2C=CC=C4)N(N=C3)C)C=C1)C | C20H21N5O
reactant | 1-methylhomopiperazine | 0.24 mmol, 27 mg | CN1CCNCCC1 | C6H14N2
reactant | DIEA | 0.24 mmol, 31 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-5-(3-methyl-4-(4-methylperhydro-1,4-diazepine-1-carbonylaminomethyl)benzoyl)-4,10-dihydropyrazolo[5,4-b][1,5]benzodiazepine | CN1N=CC2=C1NC1=C(N(C2)C(C2=CC(=C(C=C2)CNC(=O)N2CCN(CCC2)C)C)=O)C=CC=C1 | C27H33N7O2
